US06048884
7.71 g of (S)-2-phenoxymethyloxirane and 10.34 g of 2-(4-nitrophenyl)ethylamine hydrochloride were subjected to a ring-opening reaction in the presence of 5.20 g of triethylamine to obtain 6.35 g of (S)-1-phenoxy-3-[[2-(4-nitrophenyl)ethyl]amino]-2-propanol.

reactant | (S)-2-phenoxymethyloxirane | 7.71 g | O(C1=CC=CC=C1)C[C@H]1OC1 | C9H10O2
reactant | 2-(4-nitrophenyl)ethylamine hydrochloride | 10.34 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CCN
solvent | triethylamine | 5.20 g | C(C)N(CC)CC | C6H15N
product | (S)-1-phenoxy-3-[[2-(4-nitrophenyl)ethyl]amino]-2-propanol | 6.35 g | O(C1=CC=CC=C1)C[C@H](CNCCC1=CC=C(C=C1)[N+](=O)[O-])O | C17H20N2O4
